US07538123B2
Synthesis of 1-{1-[2-(8-methoxy-5-methoxyimino-2,3,4,5-tetrahydrobenzo[b]oxepin-7-yl)ethyl]piperidin-4-yl}-1H-indole-6-carboxamide
97 mg of 1-(1-(2-(8-methoxy-5-oxo-2,3,4,5-tetrahydrobenzo[b]oxepin-7-yl)ethyl)piperidin-4-yl)-1H-indole-6-carboxamide was dissolved in a mixed solution consisting of 4 ml of methanol, 2 ml of tetrahydrofuran, and 2 ml of chloroform. Thereafter, 105 mg of methoxylamine hydrochloride and 103 mg of sodium acetate were added to the reaction solution, and the obtained mixture was then stirred at room temperature. At the midpoint of the reaction, 1 g of methoxylamine hydrochloride and 1 g of sodium acetate were further added thereto. After completion of the reaction, a 1 N sodium hydroxide aqueous solution, a saturated sodium bicarbonate aqueous solution, and chloroform were added to the reaction solution, so as to separate an organic layer. The obtained organic layer was washed with a saturated sodium bicarbonate aqueous solution and a saturated sodium chloride solution, and then dried over anhydrous magnesium sulfate. After removing the drying agent by filtration, the organic layer was concentrated under a reduced pressure. The residue was solidified from t-butyl methyl ether-ethyl acetate, so as to obtain 70 mg of the subject compound.

reactant | 1-(1-(2-(8-methoxy-5-oxo-2,3,4,5-tetrahydrobenzo[b]oxepin-7-yl)ethyl)piperidin-4-yl)-1H-indole-6-carboxamide | 97 mg | COC=1C(=CC2=C(OCCCC2=O)C1)CCN1CCC(CC1)N1C=CC2=CC=C(C=C12)C(=O)N | C27H31N3O4
reactant | methoxylamine hydrochloride | 105 mg | Cl.O(C)N
reactant | sodium acetate | 103 mg | C(C)(=O)[O-].[Na+]
reactant | methoxylamine hydrochloride | 1 g | Cl.O(C)N
reactant | sodium acetate | 1 g | C(C)(=O)[O-].[Na+]
reactant | sodium hydroxide | 1 N | [OH-].[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 2 ml | C(Cl)(Cl)Cl | CHCl3
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
solvent | methanol | 4 ml | CO | CH4O
product | 1-{1-[2-(8-methoxy-5-methoxyimino-2,3,4,5-tetrahydrobenzo[b]oxepin-7-yl)ethyl]piperidin-4-yl}-1H-indole-6-carboxamide | 70 mg | COC=1C(=CC2=C(OCCCC2=NOC)C1)CCN1CCC(CC1)N1C=CC2=CC=C(C=C12)C(=O)N | C28H34N4O4
